US08865752B2
A solution of methyl 4-(6-(2-ethyl-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazol-2-yl)benzoate (74 mg, 0.176 mmol) and LiOH (37 mg, 0.882 mmol) in water (1.5 mL) and dioxane (3 mL) was heated to 50° C. and stirred overnight. The solvent was evaporated, water was added and neutralized to pH 7 using 1 N HCl and evaporated. The crude product was purified by preparative TLC using 30% MeOH in DCM as eluent to afford to 4-(6-(2-ethyl-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazol-2-yl)benzoic acid as white solid. MS (ES+): m/z 406.28 (MH+).

reactant | methyl 4-(6-(2-ethyl-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazol-2-yl)benzoate | 0.176 mmol, 74 mg | C(C)C(C(N1C=NC=C1)C1=CC2=C(N=C(S2)C2=CC=C(C(=O)OC)C=C2)C=C1)CC | C24H25N3O2S
reactant | LiOH | 0.882 mmol, 37 mg | [Li+].[OH-]
solvent | water | 1.5 mL | O | H2O
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 4-(6-(2-ethyl-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazol-2-yl)benzoic acid | C(C)C(C(N1C=NC=C1)C1=CC2=C(N=C(S2)C2=CC=C(C(=O)O)C=C2)C=C1)CC | C23H23N3O2S
